US05817671
5-(N-[4-fluorobenzoyl]amino)-3-(piperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.015 gm (0.047 mMol) 5-amino-3-(1-tert-butoxycarbonylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.007 mL (0.062 mMol) 4-fluorobenzoyl chloride, the title compound was prepared.

reactant | 5-amino-3-(1-tert-butoxycarbonylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.047 mMol, 0.015 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O2
reactant | 4-fluorobenzoyl chloride | 0.062 mMol, 0.007 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 5-(N-[4-fluorobenzoyl]amino)-3-(piperidin-4-yl)pyrrolo[3,2-b]pyridine | FC1=CC=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCNCC3)C=C1 | C19H19FN4O
